*March 14, 2005
*Doc. ID: 77623, S-50395, Rev. A
.SUBCKT Si2306BDS 4 1 2
M1  3 1 2 2 NMOS W=573319u L=0.50u  
M2  2 1 2 4 PMOS W=573319u L=0.35u  
R1  4 3     RTEMP 15E-3
CGS 1 2     110E-12
DBD 2 4     DBD
**************************************************************** 
.MODEL  NMOS        NMOS ( LEVEL  = 3           TOX    = 5E-8
+ RS     = 19.5E-3         RD     = 0           NSUB   = 1.7E17   
+ kp     = 3.3E-5          UO     = 650             
+ VMAX   = 0               XJ     = 5E-7        KAPPA  = 5E-1
+ ETA    = 1E-4            TPG    = 1  
+ IS     = 0               LD     = 0                             
+ CGSO   = 0               CGDO   = 0           CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
**************************************************************** 
.MODEL  PMOS        PMOS ( LEVEL  = 3           TOX    = 5E-8
+NSUB    = 2E16            TPG    = -1)   
**************************************************************** 
.MODEL DBD D (CJO=95E-12 VJ=0.38 M=0.20 
+FC=0.1 IS=1E-12 TT=9.3E-8 N=1 BV=30.2)
**************************************************************** 
.MODEL RTEMP RES (TC1=7E-3 TC2=5.5E-6)
**************************************************************** 
.ENDS
 
