*March 21, 2005
*Doc. ID: 77078, S-50383, Rev. B
.SUBCKT Si2307BDS 4 1 2
M1  3 1 2 2 PMOS W=647931u L=0.25u             
M2  2 1 2 4 NMOS W=647931u L=0.50u    
R1  4 3     RTEMP 23E-3
CGS 1 2     250E-12
DBD 4 2     DBD
***************************************************************  
.MODEL  PMOS        PMOS ( LEVEL  = 3          TOX    = 5E-8
+ RS     = 25E-3           RD     = 0          NSUB   = 1.2E17
+ KP     = 4E-6            UO     = 400             
+ VMAX   = 0               XJ     = 5E-7       KAPPA  = 1E-1
+ ETA    = 1E-4            TPG    = -1  
+ IS     = 0               LD     = 0                        
+ CGSO   = 0               CGDO   = 0          CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*************************************************************** 
.MODEL  NMOS        NMOS ( LEVEL  = 3          TOX    = 5E-8
+NSUB    = 9E16            TPG    = -1)   
*************************************************************** 
.MODEL DBD D (CJO=80E-12 VJ=0.38 M=0.23
+RS=0.1 FC=0.5 IS=1E-12 TT=6E-8 N=1 BV=30.2)
*************************************************************** 
.MODEL RTEMP RES (TC1=6E-3  TC2=5.5E-6)
*************************************************************** 
.ENDS