*POLYFET RF DEVICES
*05/3/99
*PHONE:(805)484-4210; FAX:(805)3393 CONTACT: MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*SA742
* VG=4 IDQ=247.52 MA
* D G S
.SUBCKT S1E2/PF 20 10 30
LGATE 10 11 1.81N
RGATE 11 12 1.28
CG 10 30 0.275P
CRSS 12 17 2.98P
CISS 12 14 79.2P
LS 14 30 0.18N
CS 14 30 0.07P
LD 17 20 0.61N
CD 20 30 0.01P
R_RC 16 17 924
C_RC 14 16 2.5P
MOS 13 12 14 14 S1E2MOS L=1.1U W= 0.166 ;D G S B LEVEL1
JFET 17 14 13 S1E2JF ;D G S
DBODY 14 17 S1E2DB ;P N

.MODEL S1E2MOS NMOS(VTO=3.5 KP=0.9E-5 LAMBDA=0.15 RD=0.25 RS=0.28)
.MODEL S1E2JF NJF (VTO=-6.8 BETA=0.1 LAMBDA=1)
.MODEL S1E2DB D (CJO=164.0P RS=0.25 VJ=1.0 M=0.4 BV=125.0)
.ENDS
*$
